Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Chlorhexadine
 
Attending: ___
 
Chief Complaint:
MSSA bacteremia requiring ICD removal
 
Major Surgical or Invasive Procedure:
___: ICD removal

 
History of Present Illness:
Per admitting HPI:

Mr. ___ is a ___ gentleman with insulin-dependent 
diabetes, coronary artery disease status post CABG, end-stage 
renal disease on dialysis (___), AF with a history of 
cardioembolic stroke, bilateral BKA, ischemic
cardiomyopathy with ejection fraction of 15%, hx left atrial 
appendage clot, reported history of HIT (but heparin-dependent 
abx in ___, transferred from ___ with MSSA 
bacteremia and ICD lead infection.

He initially was brought in to ___ on ___ after not 
presenting to his dialysis transportation. Reportedly, the 
police broke into his apartment and he was found to be altered 
and in DKA. He was on an insulin drip for this w/o complication. 
He was noted to have pus coming out of his dialysis catheter and 
was started on broad-spectrum antibiotics. 

Blood and dialysis catheter cultures grew MSSA. ID was consulted 
and he was transitioned to oxacillin and gentamicin. Last 
positive cultures were ___.

His dialysis catheter was removed on ___ and a new one 
placed on ___. 

A TTE on ___ showed EF of 15% and significant WMA in addition 
to AF with rapid rates. 

A TEE on ___ reportedly revealed a large pacemaker lead 
vegetation, and he was transplanted with probable need for 
explant. Of note, pacemaker/defibrillator interrogation showed 
that the battery is dead. (He had not seen his cardiologist in ___ 
years.) TTE also confirmed EF of 15%; patient was euvolemic. 

___ labs were reviewed via Magic Button and in chart.

On the floor, he reports having no memory of what happened, but 
thought he had been feeling well. He reports having a lot of 
confusion about his medicines, and though a ___ was helpful at 
the beginning he was "making a mess of" his medicines and 
"couldn't keep track." His only symptom is feeling "rough" from
the anitbiotics, in terms of ___ loose bowel movements per day, 
non-bloody, with an intermittent sharp, abdominal pain across 
his whole mid-abdomen that is fleeting. He "can feel gas going 
down my system". 

Of note, he was hospitalized 1 month ago on vascular surgery for 
have an occluded fem-peroneal bypass graft. At this time he 
underwent his left BKA. 

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Diabetes Type II
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
- CABG: 5-vessel in ___
- NSTEMI treated medically circa ___
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: St. ___ single chamber dual coil ICD (per ___
notes); batteries not working and currently infected on this
admission
3. OTHER PAST MEDICAL HISTORY
- AF 
- Ischemic cardiomyopathy (EF 15%)
- PAD s/p multiple bypasses and bilateral BKA
- Chronic pain syndrome
- Nocturia
- Peripheral neuropathy
- CKD on HD (___)
- Cardioembolic stroke (L hemiplegia, ___ Neurology)
- L atrial appendage clot 
- Ventricular tachycardia
- Hx rhabdomyolysis
- reported history of HIT but heparin-dependent abx ___ neg

SURGICAL HISTORY
L fem-peroneal bypass ___: LLE angiogram, L BK
___ bypass w/ NRSVG (Cambpell), R BKA ___, 
___,
R pop-DP bypass, ___ toe amputation ___ (___ 
___, Vascular surgeon Dr ___, RLE hematoma
evacuation ___ (___), bypass graft explantation,
tonsillectomy, Debridement ankle infection ___ Revision right
ankle ligament reconstruction with Achilles tendon allograft
___, 5V CABG ___. L ___ ___. R BKA 
(___).

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 98.1 | 96/52 | 57 | 18 | 99%RA 
GENERAL: NAD, nontoxic. 
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, no JVD. 
CV: irregularly irregular rhythm, quiet systolic flow murmur and
S4 heard at left sternal border. 
PULM: CTAB, no wheezes, rales, rhonchi. He is breathing
comfortably without use of accessory muscles.
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatomegaly. 
EXTREMITIES: Bilateral below-knee amputations; stumps w/o
erythema, edema, rashes. 
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving arms and upper legs with purpose, face
grossly symmetric
DERM: some erythema/excoriations on arms, no obvious lesions or
e/o active scabies. 
PSYCH: Very pleasant; somewhat low mood. 

DISCHARGE PHYSICAL EXAM
=======================
GENERAL: chronically ill-appearing gentleman in NAD, laying in
bed in no acute distress-in dialysis
HEENT: AT/NC, anicteric sclera, MMM, edentulous
NECK: supple, no LAD, no JVD. 
CV: irregularly irregular rhythm, quiet systolic flow murmur and
S4 heard at left sternal border. 
PULM: CTAB, no wheezes, rales, rhonchi. 
GI: Abdomen mildly distended, non-tender. Normal bowel sounds
EXTREMITIES: Bilateral below-knee amputations; stumps w/o
erythema, edema, rashes. PICC placed in left arm, no erythema or
tenderness to palpation around site.
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving arms and upper legs with purpose, face
grossly symmetric
DERM: Upper left chest bandaged at site of ICD removal. No
significant inflammation or erythema, no evidence of hematoma. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:51AM BLOOD WBC-11.8* RBC-3.45* Hgb-10.0* Hct-32.6* 
MCV-95 MCH-29.0 MCHC-30.7* RDW-17.1* RDWSD-58.9* Plt ___
___ 12:51AM BLOOD ___ PTT-34.8 ___
___ 12:51AM BLOOD Glucose-218* UreaN-21* Creat-2.9* Na-138 
K-3.3* Cl-93* HCO3-29 AnGap-16
___ 12:51AM BLOOD ALT-35 AST-48* AlkPhos-215* TotBili-0.5
___ 12:51AM BLOOD Calcium-8.1* Phos-3.7 Mg-2.0
___ 07:22AM BLOOD Genta-2.0*

PERTINENT INTERIM LABS
======================
___ 09:12AM BLOOD ___ PTT-107.9* ___
___ 09:12AM BLOOD Glucose-127* UreaN-40* Creat-5.1*# Na-140 
K-4.3 Cl-93* HCO3-25 AnGap-22*
___ 09:12AM BLOOD Calcium-8.4 Phos-5.8* Mg-2.3

STUDIES
=======
___ CXR
IMPRESSION:  
No pneumothorax post removal of the left chest wall AICD. 

___ CXR for PICC
IMPRESSION:  
Status post placement of a left-sided PICC which terminates in 
the low SVC, just proximal to the cavoatrial junction. 

DISCHARGE LABS
==============
___ 04:48AM BLOOD WBC-4.7 RBC-2.40* Hgb-7.1* Hct-23.0* 
MCV-96 MCH-29.6 MCHC-30.9* RDW-16.3* RDWSD-57.4* Plt Ct-81*
___ 04:48AM BLOOD ___ PTT-34.2 ___
___ 04:48AM BLOOD Glucose-99 UreaN-51* Creat-4.6* Na-139 
K-5.1 Cl-97 HCO3-26 AnGap-16
___ 04:48AM BLOOD Calcium-8.3* Phos-3.6 Mg-2.3
 
Brief Hospital Course:
PATIENT SUMMARY
=================
___ gentleman with insulin-dependent diabetes, coronary 
artery disease status post CABG, end-stage renal disease on 
dialysis (MWF), AF with a history of cardio-embolic stroke, 
bilateral BKA, ischemic cardiomyopathy with ejection fraction of 
15%, hx left atrial appendage clot, reported history of HIT (but 
heparin-dependent abx in ___, transferred from ___ 
with MSSA bacteremia and ICD lead infection. S/P ICD removal & 
PICC line placement for 6 weeks of antibiotics w/ IV cefazolin. 
Course complicated by anemia, suspected secondary to ESRD, for 
which patient was transfused and epogen was started with 
dialysis.

ACUTE ISSUES
============
#MSSA BACTEREMIA
#INFECTED ICD Lead: 
Patient was admitted for removal of ICD after he was found to 
have MSSA bacteremia at outside hospital. By time of admission, 
cultures were clear and no active signs of infection. Pt's first 
negative cx were on ___ at ___. HD line was replaced at OSH on 
___. Patient was monitored on telemetry and transitioned to IV 
Cefazolin for antibiotic management, per recs from ID. ICD was 
removed on ___ by EP, there were no complications. 
Patient to receive a total of 6 weeks of treatment w/ IV 
Cefazolin (end date ___.

#Ventricular arrhythmia
Hx of life threatening arrhythmia requiring ICD placement. Now 
s/p ICD removal. Occasional betas of self limited ventricular 
tachycardia. Per discussion w/ patient and w/ EP, no current 
indications for a life vest, given ICD never fired and patient's 
episodes in the hospital were self limited. Patient will f/u w/ 
EP as an outpatient to discuss reinsertion of the ICD.

#Anemia
Hemoglobin 
Hemoglobin steadily dropped during hospitalization, trough of 
5.4, requiring 2U PRBCs. Patient's hemoglobin responded 
appropriately, increased to 7 and stabilized. Likely 
multi-factorial ___ to ESRD, anemia of chronic disease, and iron 
deficiency anemia. Pt's labs w/out evidence of hemolytic anemia 
and no evidence of active bleeding. Epogen started with dialysis 
sessions. 

#HFrEF (30%): 
Euvolemic. Was discharged from OSH w/ Furosemide 4x a week. No 
dieuresis during this hospitalization. Switched diuretic to 
non-dialysis days. 

CHRONIC ISSUES
==============
#ESRD: 
Nephrology was consulted and patient was maintained on dialysis 
___. HD line replaced ___. Also increased home sevelamer to 
1600mg TID w/ meals and added epogen to dialysis sessions.

#DIARRHEA: 
Associated with antibiotics. C.diff negative at ___ on ___. 
Continued loperamide.

#TYPE II DIABETES
#DKA (resolved at ___): 
Patient was maintained on insulin glargine 17U qAM & sliding 
scale insulin. Home oral anti-hyperglycemic agents resumed at 
discharge. 

#PRURITIS: 
Recent history of scabies but seemed to be resolved 
post-treatment with ivermectin. Given general poor self care, 
consulted social work.

#AF
#HISTORY OF CARDIOEMBOLIC STROKE: 
CHADS2VASC of 6, didn't seem to be on any anticoagulation prior 
to d/c. Was continued on argatroban, given questionable hx of 
HIT (later confirmed negative). Initially planning for Warfarin, 
but given patient's difficulty with outpatient follow up, 
decided on Apixaban instead (with renal approval).

TRANSITIONAL ISSUES:
===================
#MSSA Bacteremia:
#ICD Removal:
[ ] Continue Cefazolin (dosed after HD- 2mg IV M/W, 3mg IV F) 
until ___.
[ ] Suture removal ___.
[ ] F/u with EP to discuss risk benefit of ICD replacement.

#Atrial Fibrillation:
[ ] Started on Apixaban 5mg BID (with renal approval)
[ ] Metoprolol consolidated to 75mg of succinate daily 
(discontinued tartrate 12.5mg BID)

#Anemia:
Suspect ___ ESRD, no evidence bleeding. 
[ ] Check labs with next dialysis session to ensure Hg not 
dropping further (threshold for transfusion < 7). Dose Epogen 
with dialysis per renal recs. 
[ ] Colonoscopy per regular screening guidelines 

#Diarrhea:
C-diff negative, likely related to antibiotics. 
[ ] Started loperamide. Continue at least until antibiotics 
finish, then DC. 

#Heparin:
[ ] On review of OMR with pharmacist, patient DOES NOT have a 
history of HIT (SRA was negative). Therefore ok for patient to 
receive heparin products.

#Back Pain
Patient on Oxycontin SR 20mg daily. 
[ ] Added short acting oxycodone 5mg TID prn while inpatient. 
Written for 5d script at rehab. Titrate as tolerated. 
[ ] Continue good bowel regimen.

#DM
Patient given 17u glargine insulin while inpatient for 
management of diabetes. Given low healthcare literacy and 
complex medication regimen already, switched back to oral agent 
at discharge. 
[ ] Monitor HgA1c and consider insulin in future if 
uncontrolled.  

#ESRD:
[ ] Continue dialysis MWF
[ ] Increased sevelamer to 1600 TID
[ ] Added Epogen to dialysis sessions
[ ] Switched diuretic to 40mg Lasix on NON-dialysis days. 

#Healthcare Maintenance:
[ ] Hep B Series should be initiated outpatient 
[ ] Speech/swallow recommended outpatient workup of patient's 
dysphagia if it persists (GI referral). 

#Code: full
#Contact:  ___ 
Relationship: brother 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 2.5 mg PO ONE TABLET BID. 
2. Furosemide 80 mg PO ___ 
3. glimepiride 1 mg oral One tablet daily. 
4. HydrOXYzine 25 mg PO ONE TABLET TID 
5. ARIPiprazole 5 mg PO ONE TABLET DAILY. 
6. Aspirin 81 mg PO DELAYED REALEASE (___) ONE TABLET DAILY.  
7. Atorvastatin 80 mg PO ONE TABLET DAILY. 
8. BuPROPion (Sustained Release) 150 mg PO ONE TABLET DAILY. 
9. Gabapentin 300 mg PO ONE CAPSULE BID. 
10. Sertraline 150 mg PO ONCE 
11. Acetaminophen 1000 mg PO Q8H 
12. Docusate Sodium 100 mg PO BID 
13. Senna 8.6 mg PO BID:PRN constipation 
14. Sarna Lotion 1 Appl TP QID:PRN dry skin, pruritis 
15. OxyCODONE SR (OxyconTIN) 20 mg PO DAILY 
16. Metoprolol Tartrate 12.5 mg PO BID 
17. sevelamer CARBONATE 800 mg PO TID W/MEALS 

 
Discharge Medications:
1.  CeFAZolin 2 g IV POST HD (MO,WE)  
2.  CeFAZolin 3 g IV POST HD (FR)  
3.  Lisinopril 2.5 mg PO DAILY  
4.  LOPERamide 2 mg PO QID:PRN diarrhea  
5.  Metoprolol Succinate XL 75 mg PO DAILY 
hold for SBP < 100, HR < 60  
6.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth every 8 hours as needed 
Disp #*15 Capsule Refills:*0 
7.  Apixaban 5 mg PO BID  
8.  Furosemide 40 mg PO 4X/WEEK (___)  
9.  sevelamer CARBONATE 1600 mg PO TID W/MEALS  
10.  Acetaminophen 1000 mg PO Q8H  
11.  ARIPiprazole 5 mg PO ONE TABLET DAILY.  
12.  Aspirin 81 mg PO DELAYED REALEASE (___) ONE TABLET DAILY. 
  
13.  Atorvastatin 80 mg PO ONE TABLET DAILY.  
14.  BuPROPion (Sustained Release) 150 mg PO ONE TABLET DAILY.  
15.  Docusate Sodium 100 mg PO BID  
16.  Gabapentin 300 mg PO ONE CAPSULE BID.  
17.  glimepiride 1 mg oral ONE TABLET DAILY.  
18.  HydrOXYzine 25 mg PO ONE TABLET TID  
19.  OxyCODONE SR (OxyconTIN) 20 mg PO DAILY  
20.  Sarna Lotion 1 Appl TP QID:PRN dry skin, pruritis  
21.  Senna 8.6 mg PO BID:PRN constipation  
22.  Sertraline 150 mg PO ONCE Duration: 1 Dose  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- Methicillin sensitive bacteremia
- Congestive heart failure with reduced ejection fraction

SECONDARY DIAGNOSES
- Anemia
- ESRD
- Diabetes
- Atrial Fibrillation
- Diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted for a blood infection that required your ICD 
be removed.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- We removed your ICD and gave you antibiotics. 
- We gave you a blood transfusion because your blood levels were 
lower than they should be.
- You received your regularly scheduled dialysis while in the 
hospital. 
 
WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please go to the cardiology appointments we have made you. The 
rehab center will schedule a PCP appointment with you. 
- Continue the antibiotics as prescribed
- Please take all your other medicines as prescribed.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___